* C:\Users\Jimbles\ScouseTom\src\schematics\Small_CS\Sim\Howland_Improved_OPA2188.asc
V1 +V 0 +15
V2 -V 0 -15
R1 N002 N001 {R}
R2 N001 0 {R}
V3 IN 0 SINE(0 1 1K) AC 1
R3 N004 N003 {R}
R4 N003 IN {R}
Rload N004 0 {x}
R5 N002 N004 {R2}
C1 N002 N001 1p
XU2 N001 N003 -V +V N002 OPA2188
.tran 0 3m 1m
.step param X list 1 10 100 1K 10K
.param R=100k
.param R2=1k
.inc ..\..\..\..\lib\spice\ADA4522.cir
;.ac dec 3m 1 1MEG
.lib ..\..\..\..\lib\spice\OPA2188_TINA_AIO\OPA2188.lib
* changed U1 val to ADA4522
* U1 to OPA2188
.lib C:\Users\Jimbles\ScouseTom\lib\spice\OPA2188_TINA_AIO\OPA2188.lib
.backanno
.end
