* C:\Users\djave\ScouseTom\src\schematics\Small_CS\Sim\Howland_Improved_OPA2188.asc
V1 +V 0 +15
V2 -V 0 -15
R1 N002 N001 {R}
R2 N001 0 {R}
VSIG IN 0 SINE(0 0.5 1K) AC 0.5
R3 VOUT N003 {R}
R4 N003 IN {R}
Rload VOUT 0 {x}
R5 N002 VOUT {R2}
C1 N002 N001 10p
XU2 N001 N003 -V +V N002 OPA2188
;.tran 0 2m 1m
;.step param X list 10 100 1K 10K
.param R=100k
.param R2=2k
.inc ..\..\..\..\lib\spice\ADA4522.cir
.ac dec 3m 1 1MEG
.lib ..\..\..\..\lib\spice\OPA2188_TINA_AIO\OPA2188.lib
* changed U1 val to ADA4522
* U1 to OPA2188
* ADD SCOUSETOM/LIB/SPICE TO LTSPICE SEARCH PATH
;.noise V(VOUT) VSIG dec 100 1 1MEG
;.param X=2K
.step param X list 10 10K
.lib OPA2188_TINA_AIO\OPA2188.lib
.backanno
.end
